US06747023B1
4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(6-methylsulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine
In methylene chloride (5 ml) was dissolved 1-[(6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine (585 mg), followed by the addition of trifluoroacetic acid (2 ml). The resulting mixture was stirred at room temperature for 30 minutes. A saturated aqueous solution of sodium bicarbonate was added and the resulting mixture was extracted with methylene chloride (to which N,N-dimethylformamide was added in a small amount). The organic layer was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. To the residue was added a 1N aqueous hydrochloride in ethanol (1 ml) and the solvent was distilled off under reduced pressure, whereby the hydrochloride (585 mg, containing two molecules of N,N-dimethylformamide). A 100 mg portion of the resulting hydrochloride was added to methylene chloride (3 ml), followed by the addition of triethylamine (0.5 ml) and methanesulfonyl chloride (20 mg). The resulting mixture was stirred at room temperature for 2 hours. A saturated aqueous solution of sodium bicarbonate was added to the reaction mixture. The resulting mixture was extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by preparative thin-layer chromatography (methylene chloride:methanol=9:1). The solid thus obtained was dissolved in methylene chloride, followed by the addition of ether for crystallization, whereby the title compound (34.2 mg) was obtained as a white solid.

reactant | 1-[(6-tert-butoxycarbonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-4-[(5-chloroindol-2-yl)sulfonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | 585 mg | C(C)(C)(C)OC(=O)C1CC2=C(CN1)SC(=N2)C(=O)N2C(CN(CC2)S(=O)(=O)C=2NC1=CC=C(C=C1C2)Cl)CC(=O)N2CCOCC2 | C30H37ClN6O7S2
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-[(5-Chloroindol-2-yl)sulfonyl]-1-[(6-methylsulfonyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[[(morpholin-4-yl)carbonyl]methyl]piperazine | 34.2 mg | ClC=1C=C2C=C(NC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)S(=O)(=O)C)CC(=O)N1CCOCC1 | C26H31ClN6O7S3
